US06071965
Di-tert-butyl2-[(hydroxyphosphinyl)methyl]pentanedioate
A mixture of ammonium phosphinate (162.6 g, 1.96 mol) and 1,1,1,3,3,3-hexamethyldisilazane (316 g, 1.96 mol) was heated to 105° C. for 2 hours. The reaction mixture was cooled in an ice bath and di-tert-butyl 2-methylenepentane-1,5-dioate (251 g, 0.979 mol) dissolved in dichloromethane (1000 ml) was added dropwise. The reaction mixture was allowed to warm to room temperature overnight. The reaction mixture was then quenched with distilled water (500 ml) and the organic layer was retained. The aqueous layer was washed a second time with dichloromethane and the combined organic layers were dried over magnesium sulfate. Then the solvent was removed under reduced pressure leaving a slightly yellow oil (315 g, 100%). This product was found to be of sufficient purity for use in the next reaction. 1H NMR (CDCl3): δ 1.4 (m, 18H), 1.9 (m, 3H), 2.1 (m, 1H), 2.3 (m, 2H), 2.7 (m, 1H), 6.5 & 7.9 (d, 1H, the P-H), 11.0 (s, 1H)

reactant | ammonium phosphinate | 1.96 mol, 162.6 g | [PH2]([O-])=O.[NH4+]
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 1.96 mol, 316 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | di-tert-butyl 2-methylenepentane-1,5-dioate | 0.979 mol, 251 g | C=C(C(=O)OC(C)(C)C)CCC(=O)OC(C)(C)C | C14H24O4
solvent | dichloromethane | 1000 ml | ClCCl | CH2Cl2
product | Di-tert-butyl2-[(hydroxyphosphinyl)methyl]pentanedioate | 315 g, 100% | C(C)(C)(C)OC(C(CCC(=O)OC(C)(C)C)CP(=O)O)=O | C14H27O6P
